US08124610B2
N-(thiazol-2-yl)-4-(5-(4-(trifluoromethyl)benzyl)-1,3,4-thiadiazol-2-ylamino)benzenesulfonamide
A mixture of (4-trifluoromethyl-phenyl)-acetic acid hydrazide (55 mg, 0.25 mmol, 1.5 equiv), 4-isothiocyanato-N-thiazol-2-yl-benzenesulfonamide (50 mg, 0.2 mmol, 1.0 equiv) and sodium carbonate (20 mg, 0.18 mmol, 1.1 equiv) in 1.0 mL of ethanol was heated at 85° C. After 16 h, the heterogeneous reaction mixture was concentrated in vacuo, diluted with 500 μL of acetonitrile, filtered, and purified via reverse phase HPLC. The fraction containing product was lyophilized to afford the product as an off-white solid (15 mg, 20%).

reactant | (4-trifluoromethyl-phenyl)-acetic acid hydrazide | 0.25 mmol, 55 mg, 1.5 equiv | FC(C1=CC=C(C=C1)CC(=O)NN)(F)F | C9H9F3N2O
reactant | 4-isothiocyanato-N-thiazol-2-yl-benzenesulfonamide | 0.2 mmol, 50 mg, 1.0 equiv | N(=C=S)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1 | C10H7N3O2S3
reactant | sodium carbonate | 0.18 mmol, 20 mg, 1.1 equiv | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
product | N-(thiazol-2-yl)-4-(5-(4-(trifluoromethyl)benzyl)-1,3,4-thiadiazol-2-ylamino)benzenesulfonamide | 15 mg, 20% | S1C(=NC=C1)NS(=O)(=O)C1=CC=C(C=C1)NC=1SC(=NN1)CC1=CC=C(C=C1)C(F)(F)F | C19H14F3N5O2S3
